US06211234B1
A mixture of 2-fluoro-4-(3-thienylmethoxy)nitrobenzene (4.21 g), aqueous potassium hydroxide solution (50 mL; 50% w/v) and t-butanol (20 mL) is heated at reflux for 4 hours. It is then evaporated to dryness and the residue is partitioned between ethyl acetate (100 mL) and hydrochloric acid (100 mL; 1 N). The organic phase is washed with water (3×100 mL), dried over magnesium sulphate, filtered and evaporated, to give 2-nitro-5-(3-thienylmethoxy)phenol, in the form of a yellow solid.

reactant | 2-fluoro-4-(3-thienylmethoxy)nitrobenzene | 4.21 g | FC1=C(C=CC(=C1)OCC1=CSC=C1)[N+](=O)[O-] | C11H8FNO3S
reactant | potassium hydroxide | 50 mL | [OH-].[K+]
solvent | t-butanol | 20 mL | C(C)(C)(C)O | C4H10O
product | 2-nitro-5-(3-thienylmethoxy)phenol | [N+](=O)([O-])C1=C(C=C(C=C1)OCC1=CSC=C1)O | C11H9NO4S
